US05382593
Preparation 19: 1-(PYRID-2-YL)-INDOLIN-2-ONE
Dissolve the 3-chloro-1-(pyrid-2-yl)-indole in 1500 cm3 of 2-methoxyethanol and heat to 100° C. with stirring. Add 1100 cm3 of 70% phosphoric acid in a fine stream. Continue heating for 6 hours and then treat the reaction mixture with charcoal under reflux for 15 mins. Filter. Heat to 70° C. while adding 2000 cm3 of water. Cool the precipitated product for 12 hours at 5° C. Filter and dry.

reactant | 3-chloro-1-(pyrid-2-yl)-indole | ClC1=CN(C2=CC=CC=C12)C1=NC=CC=C1 | C13H9ClN2
reactant | phosphoric acid | 1100 cm3 | P(O)(O)(O)=O | H3O4P
reactant | charcoal | C | CH4
solvent | 2-methoxyethanol | 1500 cm3 | COCCO | C3H8O2
product | 1-(PYRID-2-YL)-INDOLIN-2-ONE | N1=C(C=CC=C1)N1C(CC2=CC=CC=C12)=O | C13H10N2O
